US04740602
HCl is passed for 2 hours into a solution of 3.88 g of 2-[4-(5-carboxy-3-indolyl)butyl]-1,2,3,4-tetrahydrobenzofuro[2,3-c]pyridine in 50 ml of absolute ethanol. The mixture is then allowed to stand at 20° for 48 hours, the usual working up is carried out, and 2-[4-(5-ethoxycarbonyl-3-indolyl)butyl]-1,2,3,4-tetrahydrobenzofuro[2,3-c]pyridine is obtained.

reactant | HCl | Cl | ClH
reactant | 2-[4-(5-carboxy-3-indolyl)butyl]-1,2,3,4-tetrahydrobenzofuro[2,3-c]pyridine | 3.88 g | C(=O)(O)C=1C=C2C(=CNC2=CC1)CCCCN1CC2=C(CC1)C1=C(O2)C=CC=C1 | C24H24N2O3
reactant | ethanol | 50 ml | C(C)O | C2H6O
product | 2-[4-(5-ethoxycarbonyl-3-indolyl)butyl]-1,2,3,4-tetrahydrobenzofuro[2,3-c]pyridine | C(C)OC(=O)C=1C=C2C(=CNC2=CC1)CCCCN1CC2=C(CC1)C1=C(O2)C=CC=C1 | C26H28N2O3
